datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1(C)O[B-:63](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH2:62]/[CH:11]=[CH:10]/C)OC1(C)C.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](C)[CH+:11][CH2:62][B-:63]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)OC(C)(C)C(C)(C)O2)[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10,11=10,20"
CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C:84]1=[CH:83][CH:82]=[C:81]([CH-:10][S:61](C(F)(F)F)(=[O:62])=[O:72])[CH:92]=[CH:93]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([S:61](C(F)(F)F)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[C:84](C)[CH:93]=[CH:92]2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32].C[C:10](C)=[N+:11]([O-:12])[O-:62]>>CC[O:33][C:31]([C:20]1([C:10](C)(C)[N+:11](=[O:12])[O-:62])CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[S+:61](C)[O-:10].Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>C[S+:61](C)[O:10][C:20]1(Cl)[C:21](Cl)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([CH:20]=[O:21])C=C1.CC1=CC(C)=C(N2C(C3=CC=CC=C3)=N[N+](C3=C(C)C=C(C)C=C3C)=C2/[C:61]([O-:10])=[C:62](\C)C2=CC=CC=C2)C(C)=C1>>CC1=CC(C)=C(N2C(C3=CC=CC=C3)=N[N+](C3=C(C)C=C(C)C=C3C)=C2/[C:61]([O:10][CH:20](C2=CC=CC=C2)[O-:21])=[C:62](\C)C2=CC=CC=C2)C(C)=C1 10=20;20,21=21"
"C/[CH:63]=[CH:62]/[CH:11]=[CH2:10].C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH2:10][CH+:11]/[CH:62]=[CH:63]/C)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23"
"COC1=C[C:72]2=[C:71](C=C1)[N:10]=[CH:61][CH:62]=[CH:63]2.[O-][N+:22]([C:21]1=[CH:20]N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)=[O:23]>>COC1=C[C:72]2=[C:71](C=C1)[N+:10]([CH:20]1N3N=N[N:35]=[C:34]3[CH:33]=[CH:32][C:21]1=[N+:22]([O-])[O-:23])=[CH:61][CH:62]=[CH:63]2 10=20;20,21=21,22;22,23=23"
"CN1CC[C:20](=[O:21])CC1.Cl[C:64]1=[CH:63][CH:62]=[C:61]([NH2:10])[CH:72]=[CH:73]1>>CN1CC[C:20]([NH2+:10][C:61]2=[CH:62][CH:63]=[C:64](Cl)[CH:73]=[CH:72]2)([O-:21])CC1 10=20;20,21=21"
"C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C:21](=[CH:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34].C1CC[N:72]([C:61]([S-:10])=[S:62])CC1>>C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C-:21]([CH:20]([S:10][C:61](=[S:62])[N:72]1CCCCC1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34] 10=20;20,21=21"
"C1=C[C:61]2=[C:62](C=C1)[N-:12][CH:11]=[N:10]2.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[CH:11]=[N:12][C:62]3=[C:61]2C=CC=C3)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C[C:63]([NH:12][C:11](C1=CC=C(Cl)C=C1)=[CH2:10])=[O:64].Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>C[C:63]([NH+:12]=[C:11](C1=CC=C(Cl)C=C1)[CH2:10][C:20]1([C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1)=[O:64] 10,11=10,20;12=11,12"
"C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.CC[O:73][C:61](/[C:10](Cl)=[C:11](\[O-:12])[O:82]CC)=[O:62]>>CC[O:73][C:61]([C:10](Cl)([C:11](=[O:12])[O:82]CC)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N2CCCC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N2CCCC2)[CH:45]=[CH:46]1)=[O:62] 10,11=10,20;12=11,12"
"CC[C:11]1([H:10])[O:12]C(C)C(C)[O:62]1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C>>CC[C:11]1=[O+:12]C(C)C(C)[O:62]1.CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CC[O:72]1>>CC1=CC=C([S:32]([N-:21][CH:20]([CH:10]2CC[O:72][C:11]2=[O+:12][Si:63](C)(C)C)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"C[C:71]1=[N:72][CH:62]=[CH:61][N-:10]1.N#C/[CH:20]=[CH:21]/[C:22]#[N:23]>>C[C:71]1=[N:72][CH:62]=[CH:61][N:10]1[CH:20](C#N)[CH:21]=[C:22]=[N-:23] 10=20;20,21=21,22;22,23=23"
"Br[CH-:10][S:61](C1=CC=CC=C1)(=[O:62])=[O:72].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10](Br)[S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1 10=20;20,21=21,22;22,23=23"
